US07981886B2
26.a) [trans-4-(4-methoxy-benzothiazol-2-yloxy)-cyclohexyl]-carbamic acid tert-butyl ester
trans-(4-hydroxy-cyclohexyl)-carbamic acid tert-butyl ester (2.15 g, 10 mmol) and 2-chloro-4-methoxybenzothiazole (1.99 g, 10 mmol) were dissolved in THF (50 ml) and cooled to 0° C. At this temperature, NaH dispersion (960 mg, 2.2 eq) was added portionwise and the mixture was heated at 60° C. for 2 h. DMF (20 ml) was added and heating was continued for 1 h. The mixture was poured into water and extracted with EtOAc. The organic layer was washed with water and brine, dried over MgSO4 and concentrated under reduced pressure. Purification by chromatograpy on SiO2 (hex/EtOAc 4:1, 2:1) gave 1 g (26%) of a beige solid.

reactant | trans-(4-hydroxy-cyclohexyl)-carbamic acid tert-butyl ester | 10 mmol, 2.15 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)O)=O | C11H21NO3
reactant | 2-chloro-4-methoxybenzothiazole | 10 mmol, 1.99 g | ClC=1SC2=C(N1)C(=CC=C2)OC | C8H6ClNOS
reactant | NaH | [H-].[Na+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | [trans-4-(4-methoxy-benzothiazol-2-yloxy)-cyclohexyl]-carbamic acid tert-butyl ester | 1 g, 26% | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)OC=1SC2=C(N1)C(=CC=C2)OC)=O | C19H26N2O4S
